US06130326
3-Ethoxycarbonyl-2-oxopropylidenetriphenyl-phosphorane (70)
A solution of {3-(ethoxycarbonyl)-2-oxopropyl}triphenyl phosphonium chloride (21.34 g, 500 mmol) in water (450 mL) was added to a solution of sodium carbonate (3.1 g, 25.0 mmol) in 10 min (Note: A white precipitate was obtained immediately after the addition). This reaction mixture was stirred at room temperature overnight. The precipitate that obtained was filtered off through a sintered funnel. The precipitate was dissolved in dichloromethane (100 mL), dried over sodium sulfate and concentrated to yield a white solid 18.13 g (93%). This material was dried over phosphorus pentoxide overnight. 1H NMR (CDCl3) δ 1.26 (t, 3H), 3.34 (s, 2H), 3.76-3.84 (d, 1H) 4.19 (m, 2H) and 7.48-7.68 (m, 15H, PhH).

reactant | {3-(ethoxycarbonyl)-2-oxopropyl}triphenyl phosphonium chloride | 500 mmol, 21.34 g | [Cl-].C(C)OC(=O)CC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | sodium carbonate | 25.0 mmol, 3.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 450 mL | O | H2O
product | 3-Ethoxycarbonyl-2-oxopropylidenetriphenyl-phosphorane | 18.13 g, 93% | C(C)OC(=O)CC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H23O3P
